US07173004B2
Prepared from 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid (50 mg, 0.075 mmol) and methane sulfonamide (9.3 mg, 0.098 mmol) as described in the general procedure above to give [18-(isoquinolin-1-yloxy)-4-methanesulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white powder: 1H NMR (300 MHz, CD3Cl3) δ 1.18 (s, 9H), 1.25–1.96 (m, 11H), 2.26 (m, 1H), 2.54 (m, 1H), 2.71 (m, 2H), 3.18 (s, 3H), 4.08 (m, 1H), 4.26 (m, 1H), 4.64 (m, 2H), 5.00 (m, 2H), 5.73 (m, 1H), 6.01 (s, 1H), 6.73 (s, 1H), 7.28 (d, J=5.5 Hz, 1H), 7.50 (t, J=7.3 Hz, 1H), 7.65–7.76 (m, 2H), 7.98 (d, J=5.9 Hz, 1H), 8.19 (d, J=7.7 Hz, 1H), 10.28 (s, 1H). LC-MS (Method A, retention time: 3.57 min), MS m/z 670 (M++1).

reactant | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 0.075 mmol, 50 mg | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
reactant | methane sulfonamide | 0.098 mmol, 9.3 mg | CS(=O)(=O)N | CH5NO2S
product | [18-(isoquinolin-1-yloxy)-4-methanesulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C)=O | C33H43N5O8S
